US08466284B2
N-(2-Oxopropyl)-N′-[3-(trifluoromethyl)phenyl]ethanediamide (1.6 g, 5.5 mmol) and glacial acetic acid (15 ml) were placed in a vial (20 ml). To this solution was added concentrated sulfuric acid (40 drops), and the flask was sealed, and heated with stirring to 100° C. for 90 minutes. Another 40 drops of sulfuric acid was added, and the reaction was allowed to proceed for another 90 minutes. The reaction mixture was allowed to cool, and acetic acid was removed in vacuo. The residue was partitioned between EtOAc (60 ml) and water (40 ml). The aqueous phase was neutralized by addition of NaOH solution to pH 6 to 7. The organic phase was dried, and upon filtration and evaporation a crude product was obtained, which was purified on silica giving 6-methyl-1-[3-(trifluoromethyl)phenyl]-1,4-dihydropyrazine-2,3-dione (1.1 g, 74%) as a yellowish solid.

reactant | N-(2-Oxopropyl)-N′-[3-(trifluoromethyl)phenyl]ethanediamide | 5.5 mmol, 1.6 g | O=C(CNC(C(=O)NC1=CC(=CC=C1)C(F)(F)F)=O)C | C12H11F3N2O3
catalyst | sulfuric acid | 40 drops | S(O)(O)(=O)=O | H2O4S
catalyst | sulfuric acid | 40 drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 6-methyl-1-[3-(trifluoromethyl)phenyl]-1,4-dihydropyrazine-2,3-dione | 1.1 g, 74% | CC1=CNC(C(N1C1=CC(=CC=C1)C(F)(F)F)=O)=O | C12H9F3N2O2
